US05162523
1-[Bis(2,2-dimethylpropoxy)methyl]-4-phenylpiperazine
A solution of 4-phenylpiperazine (0.162 g, 0.001 mol) and dimethylformamide dineopentyl acetal (0.346 g, 0.0015 mol) in anhydrous chloroform (5 mL) was refluxed for 10 hours. The solvent and excess reagent were removed (100° C./1 mm) to give the product in quantitative yield.

reactant | 4-phenylpiperazine | 0.001 mol, 0.162 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | dimethylformamide dineopentyl acetal | 0.0015 mol, 0.346 g | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[Bis(2,2-dimethylpropoxy)methyl]-4-phenylpiperazine | quantitative yield | CC(COC(N1CCN(CC1)C1=CC=CC=C1)OCC(C)(C)C)(C)C | C21H36N2O2
